US05232928
A slurry of terephthalic acid di-tert-butyl ester (6.1 g, 0.022 mole) in tert-butanol (30 mL) was added to 1N KOH (22 mL, 0.022 mole). The mixture was heated to 60° C. for 7-8 hours. After cooling the mixture was treated with water and extracted 3 times with ethyl acetate. The aqueous layer was acidified with diulute HCL and the product was extracted into ethyl acetate. After washing of the organic layer with a saturated aqueous NaCl solution and drying over MgSO4, the solvent was filtered and concentrated to yield terephthalic acid mono tert-butyl ester as a white solid (4.7 g, 96%) melting at 100°-102° C.

reactant | terephthalic acid di-tert-butyl ester | 0.022 mole, 6.1 g | C(C)(C)(C)OC(C1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C16H22O4
reactant | KOH | 0.022 mole, 1N, 22 mL | [OH-].[K+]
reactant | water | O | H2O
solvent | tert-butanol | 30 mL | C(C)(C)(C)O | C4H10O
product | terephthalic acid mono tert-butyl ester | 4.7 g, 96% | C(C)(C)(C)OC(C1=CC=C(C(=O)O)C=C1)=O | C12H14O4
